US05385925
4'-[(2-n-Butyl-6-benzenesulphonyloxy-benzimidazol-1-yl)methyl]biphenyl-2-carboxylic acid
Prepared analogously to Example 1 from tert.-butyl 4'-[(2-n-butyl-6-benzenesulphonyloxy-benzimidazol-1-yl)methyl]biphenyl-2-carboxylate and trifluoroacetic acid in methylene chloride.

reactant | tert.-butyl 4'-[(2-n-butyl-6-benzenesulphonyloxy-benzimidazol-1-yl)methyl]biphenyl-2-carboxylate | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)OC(C)(C)C)C=C(C=C2)OS(=O)(=O)C2=CC=CC=C2 | C35H36N2O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 4'-[(2-n-Butyl-6-benzenesulphonyloxy-benzimidazol-1-yl)methyl]biphenyl-2-carboxylic acid | C(CCC)C1=NC2=C(N1CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)O)C=C(C=C2)OS(=O)(=O)C2=CC=CC=C2 | C31H28N2O5S
